US07935725B2
(S,S)-1-{5-[4-(Benzothiazol-2-yloxy)-benzyl]-2,5-diaza-bicyclo[2.2.1]hept-2-yl}-2-hydroxy-ethanone
To a stirred suspension of (S,S)-2-[4-(2,5-diaza-bicyclo[2.2.1]hept-2-ylmethyl)-phenoxy]-benzothiazole hydrochloride (1.6 g, 3.9 mmol), glycolic acid (600 mg, 7.8 mmol), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.5 g, 7.8 mmol) in CH2Cl2 (15 mL) was added Et3N (2.7 mL, 19.5 mmol). The resulting solution was then stirred at rt for 16 h. The resulting white suspension was partitioned between CH2Cl2 (600 mL) and satd. aq. NaHCO3 (100 mL). The organic layer was separated, dried (Na2SO4), filtered and concentrated. Purification by silica gel flash chromatography (0% to 5% CH3OH in CH2Cl2) afforded the title compound as a white solid (853 mg, 55%). MS (ESI): mass calcd. for C21H21N3O3S, 395.13; m/z found, 396.2 [M+H]+. 1H NMR (500 MHz, CDCl3, mixture of rotamers): 7.73 (d, J=8.5 Hz, 1H), 7.67 (d, J=8.0 Hz, 1H), 7.41 (m, 2H), 7.38 (m, 1H), 7.32 (br m, 2H), 7.28 (m, 1H), 4.83 (br m, 0.5H), 4.21 (br d, J=14.5 Hz, 0.5H), 4.10-3.99 (br m, 2H), 3.80 (br d, J=11.7 Hz, 0.5H), 3.76 (d, J=13.8 Hz, 2H), 3.61 (br s, 1H), 3.50 (br s, 0.5H), 3.48-3.45 (m, 0.5H), 3.42 (br s, 0.5H), 3.39-3.35 (m, 0.5H), 3.23 (dd, J=9.2, 2.3 Hz, 0.5H), 3.01 (dd, J=9.7, 2.1 Hz, 0.5H), 2.90 (dd, J=9.8, 2.2 Hz, 0.5H), 2.81-2.77 (m, 0.5H), 2.58 (dd, J=9.7, 1.2 Hz, 0.5H), 2.07-2.01 (m, 0.5H), 2.00-1.96 (m, 0.5H), 1.80 (d, J=9.8 Hz, 0.5H), 1.70 (d, J=10.0 Hz, 0.5H).

reactant | (S,S)-2-[4-(2,5-diaza-bicyclo[2.2.1]hept-2-ylmethyl)-phenoxy]-benzothiazole hydrochloride | 3.9 mmol, 1.6 g | Cl.[C@@H]12N(C[C@@H](NC1)C2)CC2=CC=C(OC=1SC3=C(N1)C=CC=C3)C=C2
reactant | glycolic acid | 7.8 mmol, 600 mg | C(CO)(=O)O | C2H4O3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 7.8 mmol, 1.5 g | Cl.CN(CCCN=C=NCC)C
reactant | Et3N | 19.5 mmol, 2.7 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | (S,S)-1-{5-[4-(Benzothiazol-2-yloxy)-benzyl]-2,5-diaza-bicyclo[2.2.1]hept-2-yl}-2-hydroxy-ethanone | 853 mg, 55% | S1C(=NC2=C1C=CC=C2)OC2=CC=C(CN1[C@@H]3CN([C@H](C1)C3)C(CO)=O)C=C2 | C21H21N3O3S
